US05202331
To a solution of (±)-(2R*,4R*)-4-dimethylamino-2-phenyl-2-(2-pyridyl)valeramide hydrochloride (20 g) in water (80 ml) were added seed crystals (0.02 g) and a solution of sodium hydroxide (2.47 g) in water (80 ml) was dropwise added thereto at 20-25° C. over a period of 30 minutes. The mixture was stirred at the same temperature for 1 hour. The resulting crystals were recovered by filtration, washed with water and dried to give (±)-(2R*,4R*)-4-dimethylamino-2-phenyl-2-(2-pyridyl)-valeramide (16.1 g).

reactant | (±)-(2R*,4R*)-4-dimethylamino-2-phenyl-2-(2-pyridyl)valeramide hydrochloride | 20 g | Cl.CN([C@@H](C[C@](C(=O)N)(C1=NC=CC=C1)C1=CC=CC=C1)C)C
reactant | sodium hydroxide | 2.47 g | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
solvent | water | 80 ml | O | H2O
product | (±)-(2R*,4R*)-4-dimethylamino-2-phenyl-2-(2-pyridyl)-valeramide | 16.1 g | CN([C@@H](C[C@](C(=O)N)(C1=NC=CC=C1)C1=CC=CC=C1)C)C | C18H23N3O
